US05854245
To a 500 mL round bottomed flask with a stirring bar and a gas dispersion tube was added ethyl (4-(1,1-dimethylethoxycarbonylamino)phenoxy)acetate (11.9 g, 40.29 mmol) and dry EtOAc. This solution was cooled in an ice bath and saturated with anhydrous HCl gas over 15 min. The resulting suspension was aged 30 min. at 0° C. The excess HCl was removed with a stream of argon and the EtOAc was removed in vacuo. The solid product was triturated with EtOAc, collected on a frit, and dried in vacuo at room temperature to give 7.33 g (78%) of ethyl 4-aminophenoxyacetate, hydrochloride as a white crystalline soild.

reactant | ethyl (4-(1,1-dimethylethoxycarbonylamino)phenoxy)acetate | 40.29 mmol, 11.9 g | CC(C)(OC(=O)NC1=CC=C(OCC(=O)OCC)C=C1)C | C15H21NO5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-aminophenoxyacetate, hydrochloride | 7.33 g, 78% | Cl.NC1=CC=C(OCC(=O)OCC)C=C1 | InChI=1S/C10H13NO3.ClH/c1-2-13-10(12)7-14-9-5-3-8(11)4-6-9;/h3-6H,2,7,11H2,1H3;1H
